US08124768B2
To a 2-L CHEMGLASS® reactor was added the crude 3-chloro-2-(diphenylmethyleneamino)pyridin-4(1H)-one (from above, now in DMF) and cesium carbonate (300.52 g, 923 mmol) followed by the addition of 3,4-difluoronitrobenzene (118.15 mL, 1065 mmol). The mixture was heated to approximately 90° C. with stirring for 2 h. The mixture was cooled to 25° C. with stirring for 10 min. To this solution was added water (1 L). The mixture was extracted with EtOAc (1 L) and the aqueous phase was discarded. The organics were concentrated to afford an oil. The oil was dissolved into EtOH (200 mL) (heating sometimes required). After the solution was allowed to stand at 25° C. for 4 h, a solid was collected by filtration to afford 3-chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine (104.00 g; 32.73% yield) as a yellow solid. 1H NMR (CDCl3) δ 6.52 (d, 1H, J=5.6 Hz), 6.80 (dd, 1H, J=8.1, 9.1 Hz), 7.21-7.60 (m, 8H), 7.78-7.95 (m, 2H), 8.00 (m, 1H), 8.11 (dd, 1H, J=2.5, 9.6 Hz), 8.17 (d, 1H, J=5.6 Hz); MS (ESI+) m/z 448.01 (M+H)+.

reactant | 3-chloro-2-(diphenylmethyleneamino)pyridin-4(1H)-one | ClC1=C(NC=CC1=O)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H13ClN2O
reactant | cesium carbonate | 923 mmol, 300.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,4-difluoronitrobenzene | 1065 mmol, 118.15 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | water | 1 L | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOH | 200 mL | CCO | C2H6O
product | 3-chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine | 104.00 g, 32.73% yield | ClC=1C(=NC=CC1OC1=C(C=C(C=C1)[N+](=O)[O-])F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H15ClFN3O3
